US07622466B2
b) 5-(1-Isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Hydrochloride
The solution of 0.24 g (0.56 mmol) 5-(1-isopropyl-piperidin-4-yloxy)-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 1.2 ml dioxan is treated with 0.56 ml concentrated hydrochloric acid and stirred for 16 hours under reflux. The volatile components were removed at a rotary evaporator and the residue was dried under high vacuum to give 0.19 g (98%) of the product as a brown foam which was pure enough for the next step without further purification.

reactant | 5-(1-isopropyl-piperidin-4-yloxy)-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.56 mmol, 0.24 g | CCOC(=O)C1=CC=2C(=NC=C(C2)OC2CCN(CC2)C(C)C)N1C(=O)OC(C)(C)C | C23H33N3O5
reactant | hydrochloric acid | 0.56 ml | Cl | ClH
solvent | dioxan | 1.2 ml | O1CCOCC1 | C4H8O2
product | 5-(1-Isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Hydrochloride | 0.19 g, 98% | Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C(=NC1)NC(=C2)C(=O)O | InChI=1S/C16H21N3O3.ClH/c1-10(2)19-5-3-12(4-6-19)22-13-7-11-8-14(16(20)21)18-15(11)17-9-13;/h7-10,12H,3-6H2,1-2H3,(H,17,18)(H,20,21);1H
